US09260427B2
To a stirring mixture of zinc (182 mg, 2.79 mmol) in DMF (2 mL) was added diiodine (35.4 mg, 0.14 mmol). When the color was discharged, further diiodine (35.4 mg, 0.14 mmol) and (R)-methyl 2-((tert-butoxycarbonyl)amino)-3-iodopropanoate (306 mg, 0.93 mmol) were added. After 30 min, DMF (1 mL) was added and the mixture de-gassed by bubbling through N2. To the reaction mixture were added 4-(4-bromophenyl)-2-(4-(heptyloxy)phenyl)thiazole (400 mg, 0.93 mmol), Pd2dba3 (21 mg, 0.02 mmol) and dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine (19 mg, 0.05 mmol), the mixture was further de-gassed then heated to 50° C. for 3 h. The reaction mixture was cooled and purified by column chromatography (10-80% EA in iso-hexanes). The product obtained was taken into DCM (4 mL) and washed with water (20 mL) and dried through a hydrophobic frit. The organics were suspended in ACN (4 mL) and concentrated to afford 432 mg (83%) of (S)-methyl 2-((tert-butoxycarbonyl)amino)-3-(4-(2-(4-(heptyloxy)phenyl)thiazol-4-yl)phenyl)propanoate as a yellow foam. LCMS-ESI (m/z) calculated for C31H40N2O5S: 552.7; no ion observed, tR=3.36 min. (Method 4).

reactant | diiodine | 0.14 mmol, 35.4 mg | II | I2
reactant | diiodine | 0.14 mmol, 35.4 mg | II | I2
reactant | (R)-methyl 2-((tert-butoxycarbonyl)amino)-3-iodopropanoate | 0.93 mmol, 306 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CI | C9H16INO4
reactant | 4-(4-bromophenyl)-2-(4-(heptyloxy)phenyl)thiazole | 0.93 mmol, 400 mg | BrC1=CC=C(C=C1)C=1N=C(SC1)C1=CC=C(C=C1)OCCCCCCC | C22H24BrNOS
reactant | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | zinc | 2.79 mmol, 182 mg | [Zn] | Zn
catalyst | Pd2dba3 | 0.02 mmol, 21 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine | 0.05 mmol, 19 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (S)-methyl 2-((tert-butoxycarbonyl)amino)-3-(4-(2-(4-(heptyloxy)phenyl)thiazol-4-yl)phenyl)propanoate | 432 mg, 83% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC=C(C=C1)C=1N=C(SC1)C1=CC=C(C=C1)OCCCCCCC | C31H40N2O5S
